US07138395B2
Preparation of 6-allyl-1-(2-tert-butoxycarbonylamino-pent-4-enoyl)-piperidine-2-carboxylic acid methyl ester (40):
A solution of 6-allyl-piperidine-2-carboxylic acid methyl ester, 39, (2.1 g, 11.5 mmol), 2-tert-butoxycarbonylamino-pent-4-enoic acid (9.9 g, 46 mmol), and IIDQ (13.9 g, 46 mmol) in THF (50 mL) is stirred at rt for 24 h. The reaction is diluted with EtOAc and washed with 1N HCl, saturated NaHCO3, and brine. The solution is then dried (MgSO4), concentrated, and purified by flash chromatography over silica (hexanes/ethyl acetate) to afford 1.1 g of the desired product. 1H NMR (CDCl3) δ 5.76 (m, 2H), 5.60–4.20 (series of m, 8H), 3.71 (s, 3H), 2.60–1.50 (series of m, 10H), 1.44 (s, 9H).

reactant | 6-allyl-piperidine-2-carboxylic acid methyl ester | COC(=O)C1NC(CCC1)CC=C | C10H17NO2
reactant | 2-tert-butoxycarbonylamino-pent-4-enoic acid | 11.5 mmol, 2.1 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC=C | C10H17NO4
reactant | IIDQ | 46 mmol, 13.9 g | CC(C)COC1C=CC2=CC=CC=C2N1C(=O)OCC(C)C | C18H25NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-allyl-1-(2-tert-butoxycarbonylamino-pent-4-enoyl)-piperidine-2-carboxylic acid methyl ester | 1.1 g | COC(=O)C1N(C(CCC1)CC=C)C(C(CC=C)NC(=O)OC(C)(C)C)=O | C20H32N2O5
